US08440666B2
3-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-(1-phenylethyl)propanamide
3-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}propanoic acid (32 mg, 0.080 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (31 mg, 0.160 mmol), 1-hydroxybenzotriazole anhydride (11 mg, 0.080 mmol) and triethylamine (22 μL, 0.160 mmol) in N,N-dimethylformamide (1 mL) were stirred with 1-phenylethylamine (20 μL, 0.160 mmol) at room temperature for 24 hours. After completion of the reaction, ethyl acetate was added, and the organic layer was washed with saturated aqueous ammonium chloride and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel chromatography (chloroform/methanol=15/1) to give the desired product (38 mg, 95% yield).

reactant | 3-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}propanoic acid | 0.080 mmol, 32 mg | BrC1=C(C=NN(C1=O)CCC(=O)O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C17H24BrN3O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.160 mmol, 31 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.160 mmol, 22 μL | C(C)N(CC)CC | C6H15N
reactant | 1-phenylethylamine | 0.160 mmol, 20 μL | C1(=CC=CC=C1)C(C)N | C8H11N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-(1-phenylethyl)propanamide | 38 mg, 95% yield | BrC1=C(C=NN(C1=O)CCC(=O)NC(C)C1=CC=CC=C1)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C25H33BrN4O2
